US08754209B2
To a stirred solution of 1-tert-butyl 3-ethyl 6-(4-nitrophenyl)-1H-indazole-1,3-dicarboxylate (879 mg, 2.14 mmol) in ethanol (40 Ml), was added SnCl2 (2.4 g, 10.7 mmol) and the mixture was stirred at 80° C. for 3 h. The mixture was cooled to room temperature and saturated sodium bicarbonate aqueous solution was added. The organic layer was extracted three times and the combined organic layer was dried over sodium sulfate and concentrated under reduced pressure. The residue was triturated in ethyl acetate and hexane to give ethyl 6-(4-aminophenyl)-1H-indazole-3-carboxylate (442 mg).

reactant | 1-tert-butyl 3-ethyl 6-(4-nitrophenyl)-1H-indazole-1,3-dicarboxylate | 2.14 mmol, 879 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)C(=O)OCC | C21H21N3O6
reactant | SnCl2 | 10.7 mmol, 2.4 g | Cl[Sn]Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | ethyl 6-(4-aminophenyl)-1H-indazole-3-carboxylate | 442 mg | NC1=CC=C(C=C1)C1=CC=C2C(=NNC2=C1)C(=O)OCC | C16H15N3O2
